US07034098B2
26.8 g (75.52 mmol) methyl (2E)-3-{4-[(8-chloroctyl)oxy]-3-methoxyphenyl}-2-propenoate was dissolved in 1000 ml acetone. 65.16 g (435.15 mmol) sodium iodide were added. The reaction suspension was heated at reflux temperature for 24 hours. The reaction mixture was partitioned between diethylether and water. The organic phase was washed repeatedly with water, dried over sodium sulfate, filtered and concentrated by rotary evaporation. The crude product was recrystallised from 2-propanol yielded 30.1 g (90%) methyl (2E)-3-{4-[(8-iodoctyl)oxy]-3-methoxyphenyl}-2-propenoate as white crystals.

reactant | methyl (2E)-3-{4-[(8-chloroctyl)oxy]-3-methoxyphenyl}-2-propenoate | 75.52 mmol, 26.8 g | ClCCCCCCCCOC1=C(C=C(C=C1)/C=C/C(=O)OC)OC | C19H27ClO4
reactant | sodium iodide | 435.15 mmol, 65.16 g | [I-].[Na+]
solvent | acetone | 1000 ml | CC(=O)C | C3H6O
product | methyl (2E)-3-{4-[(8-iodoctyl)oxy]-3-methoxyphenyl}-2-propenoate | 30.1 g, 90% | ICCCCCCCCOC1=C(C=C(C=C1)/C=C/C(=O)OC)OC | C19H27IO4
